US06962928B2
To a solution of 6-methoxyquinoline-N-oxide (175 mg, 1.0 mmol) in THF (3 mL) at room temperature is added methyl chloroformate (77 uL, 1.0 mmol). The mixture is cooled to 0° C. and 3-methoxyphenylmagnesium bromide (2 mL of 1M, 2 mmol) is added dropwise. The mixture is stirred for 16 h while warming to room temperature. The solvent is removed in vacuo and the resulting residue is partitioned between water and CH2Cl2. The organic phase is washed with water and brine, dried over MgSO4, filtered and concentrated. Flash chromotography (0-20% EtOAc/hexanes) yields 6-methoxy-2-(3-methoxy-phenyl)-quinoline (123 mg, 46% yield).

reactant | 6-methoxyquinoline-N-oxide | 1.0 mmol, 175 mg | COC=1C=C2C=CC=[N+](C2=CC1)[O-] | C10H9NO2
reactant | methyl chloroformate | 1.0 mmol, 77 uL | ClC(=O)OC | C2H3ClO2
reactant | 3-methoxyphenylmagnesium bromide | 2 mmol, 1M, 2 mL | COC=1C=C(C=CC1)[Mg]Br
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 6-methoxy-2-(3-methoxy-phenyl)-quinoline | 123 mg, 46% yield | COC=1C=C2C=CC(=NC2=CC1)C1=CC(=CC=C1)OC | C17H15NO2
